US07449466B2
Production Example 2 was repeated except that 1-(4-methoxyphenyl)-4-phenethylpiperazine was replaced with 1-(4-tert-butylbenzoyl)-4-(2,5-difluoro-4-methoxyphenyl)piperazine (433 mg), to provide crude 1-(4-tert-butylbenzoyl)-4-(2,5-difluoro-4-hydroxyphenyl)piperazine (282 mg).

reactant | 1-(4-methoxyphenyl)-4-phenethylpiperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C19H24N2O
reactant | 1-(4-tert-butylbenzoyl)-4-(2,5-difluoro-4-methoxyphenyl)piperazine | 433 mg | C(C)(C)(C)C1=CC=C(C(=O)N2CCN(CC2)C2=C(C=C(C(=C2)F)OC)F)C=C1 | C22H26F2N2O2
product | 1-(4-tert-butylbenzoyl)-4-(2,5-difluoro-4-hydroxyphenyl)piperazine | 282 mg | C(C)(C)(C)C1=CC=C(C(=O)N2CCN(CC2)C2=C(C=C(C(=C2)F)O)F)C=C1 | C21H24F2N2O2
